US05849911
47d) 1-[4-(Pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane hydrochloride
Analogously to Example 40g, 40 ml of 4M HCl in dioxane are added to 1.9 g (3 mmol) of 1-[4-(pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-N-Boc-amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane and the mixture is diluted with 3 ml of DMF. After 2.5 hours, the mixture is worked up. The title compound is obtained: TLC: Rf =0.55 (methylene chloride/methanol: 9/1); HPLC20-100 : tRet =8.74; FAB MS (M+H)+ =534.

reactant | HCl | 4M, 40 ml | Cl | ClH
reactant | 1-[4-(pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-N-Boc-amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane | 3 mmol, 1.9 g | N1=C(C=CC=C1)C1=CC=C(C=C1)C(N(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)C(=O)OC(C)(C)C)N | C35H47N5O6
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[4-(Pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane hydrochloride | Cl.N1=C(C=CC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)N | InChI=1S/C30H39N5O4.ClH/c1-4-21(2)28(34-30(38)39-3)29(37)33-26(18-22-10-6-5-7-11-22)27(36)20-35(31)19-23-13-15-24(16-14-23)25-12-8-9-17-32-25;/h5-17,21,26-28,36H,4,18-20,31H2,1-3H3,(H,33,37)(H,34,38);1H/t21-,26-,27-,28-;/m0./s1
